US06048868
1-Methylene-2-cyclopropylcarbonyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline
To a solution of 10-methoxyharmalan in anhydrous dichloromethane is added cyclopropylcarbonyl chloride. The solution becomes clear and is left to stir for 1 h at 0° C. After evaporation of the dichloromethane, the 1-methylene-2-cyclopropylcarbonyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline is recovered by chromatography on silica (pet. ether/EtOAc; 50/50). (The product turns yellow in the light).

reactant | 10-methoxyharmalan | CC1=C2C(=C3C=C(C=CC3=N2)OC)CCN1 | C13H14N2O
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Methylene-2-cyclopropylcarbonyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)C(=O)C1CC1 | C17H18N2O2
